** sch_path: /home/toind/work/vco_adc2/xschem/lib_count/count.sch
.subckt count UP setB DOWN Dout_buf
*.PININFO DOWN:I Dout_buf:O UP:I setB:I
X_inv_0 setB GND GND VCCD VCCD setBi sky130_fd_sc_hd__inv_2
X_upFF UP_buf Q2N setBi GND GND VCCD VCCD Q1 sky130_fd_sc_hd__dfstp_1
X_dwFF DWN_buf Q1_buf setBi GND GND VCCD VCCD Q2 sky130_fd_sc_hd__dfstp_1
x5 Q1 Q2 GND GND VCCD VCCD Dout sky130_fd_sc_hd__xor2_1
X_buf_3 UP GND GND VCCD VCCD UP_buf sky130_fd_sc_hd__buf_2
X_buf_4 Q1 GND GND VCCD VCCD Q1_buf sky130_fd_sc_hd__buf_2
X_buf_5 Dout GND GND VCCD VCCD Dout_buf sky130_fd_sc_hd__buf_2
X_buf_6 DOWN GND GND VCCD VCCD DWN_buf sky130_fd_sc_hd__buf_2
X_inv_1 Q2 GND GND VCCD VCCD Q2N sky130_fd_sc_hd__inv_2
.ends
.end
